US07608563B2
108 mg (0.607 mmol) of N-bromosuccinimide was added to a N,N-dimethylformamide (2 mL) solution containing 157 mg (0.567 mmol) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol, and the resulting mixture was stirred at room temperature for 3 hours and 30 minutes. Water, and then, 4 mol/L hydrochloric acid were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by preparative thin-layer chromatography (available from MERCK CO. 1.05744, developed by hexane:ethyl acetate=2:1) to obtain 123 mg (0.346 mmol, Yield: 61.0%) of 5-bromo-6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol (Compound No. 3843).

reactant | N-bromosuccinimide | 0.607 mmol, 108 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol | 0.567 mmol, 157 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C1CC1)O | C14H13ClN2O2
reactant | hydrochloric acid | 4 mol/L | Cl | ClH
solvent | Water | O | H2O
product | 5-bromo-6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol | 0.346 mmol, 123 mg, Yield: 61.0% | BrC=1C(=C(N=NC1Cl)OC1=C(C=CC=C1C)C1CC1)O | C14H12BrClN2O2
